US07576217B2
1-(2,2-Difluoro-6-methyl-8-phenyl-[1,3]dioxolo[4,5-g]quinolin-7-yl)-2,2,2-trifluoro-ethanone
The title compound was prepared from (6-Amino-2,2-difluoro-benzo[1,3]dioxol-5-yl)-phenyl-methanone [example A10] and 1,1,1-trifluoro-2,4-pentanedione according to the procedure of example 1, except that the solvent was isopropanol, the reaction time was of 16 h and heptane/ethyl acetate (1:2) was used. Yield: 30%; MS: m/z=396 (M+H).

reactant | (6-Amino-2,2-difluoro-benzo[1,3]dioxol-5-yl)-phenyl-methanone | NC=1C(=CC2=C(OC(O2)(F)F)C1)C(=O)C1=CC=CC=C1 | C14H9F2NO3
reactant | 1,1,1-trifluoro-2,4-pentanedione | FC(C(CC(C)=O)=O)(F)F | C5H5F3O2
reactant | isopropanol | C(C)(C)O | C3H8O
solvent | heptane ethyl acetate | CCCCCCC.C(C)(=O)OCC
product | 1-(2,2-Difluoro-6-methyl-8-phenyl-[1,3]dioxolo[4,5-g]quinolin-7-yl)-2,2,2-trifluoro-ethanone | Yield: 30% | FC1(OC=2C(=CC=3C(=C(C(=NC3C2)C)C(C(F)(F)F)=O)C2=CC=CC=C2)O1)F | C19H10F5NO3
